US04225522
Preparation of 2.14:1 Mole Ratio Dimethyl Methylphosphonate/ Tris(2-chloroethyl) Phosphate Copolycondensation Product
A vessel fitted with stirrer, thermometer, heating mantle, and vertical reflux condenser was charged with 5308 g(42.8 moles) of dimethyl methylphosphonate, 5710 g. (20 moles) of tris(2-chloroethyl)phosphate, and 40 g. of anhydrous sodium carbonate. After a brief nitrogen purge to remove air (and thus avoid possible oxidative color development the reaction mixture was raised to 135°, at which point methyl chloride began to be evolved from the condenser outlet. Over five hours the temperature was gradually raised to 185° and held for 27 hours at which time measurement of the rate of methyl chloride evolution showed the rate to have dwindled to 0.08 cc/min. At this point, weighing the remaining reaction mixture showed that a weight loss of 3044 g. had occurred, corresponding to 60.3 moles of methyl chloride (as against a theoretical loss of 60 moles). While stirring was continued, the reactor was allowed to cool to about 92° under dry nitrogen. Then 282 g. (8.8 moles) of methanol was added over 5 minutes. This quantity was a small excess over the calculated amount of cyclic glycol ester, 7.8 moles, which had been determined to be present by the fact that a sample held for 10 minutes in water and then titrated with 0.1-N NaOH to Bromphenol blue end point showed 1.14 millequivalents of acid plus cyclic ester per gram, whereas a titration of a sample in methanol with methanolic 0.1-N KOH to Bromphenol blue showed 0.16 milliequivalents of acid per gram; thus 0.98 milliequivalents of cyclic glycol ester per gram was present by this assay method. The reaction mixture was heated for 2 hours at 95°, at which point the two titration results were 0.27 meg. acid plus cyclic ester per gram and 0.17 meq. acid per gram; thus only 0.10 meq. cyclic ester per gram remained by this assay method. At this point, a fast stream of ethylene oxide was introduced with stirring at 95°. After 4 hours, the titrations by both the aqueous and alcoholic method were nil. Heating was then stopped, ethylene oxide continued as the temperature drifted down to 80°, then vigorous nitrogen sparging was conducted at 90°-95° until dissolved volatiles were removed (found to be mostly dimethyl methylphosphonate). The weight change during this devolatilization step was 3.5%. To remove final traces of acid, which reformed in the devolatilization step, the batch was briefly retreated with ethylene oxide at 95°. Alternatively, 12 of the non-volatile diepoxide of cyclohexenylmethyl cyclohexenylcarboxylate was added. The product, by the ethylene oxide finishing method, had the following characteristics:

reactant | dimethyl methylphosphonate | 42.8 moles, 5308 g | CP(OC)(OC)=O | C3H9O3P
reactant | tris(2-chloroethyl)phosphate | 20 moles | ClCCOP(=O)(OCCCl)OCCCl | C6H12Cl3O4P
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl chloride | 60.3 moles | CCl | CH3Cl
reactant | NaOH | [OH-].[Na+]
reactant | Bromphenol blue | C=1C=CC2=C(C1)C(OS2(=O)=O)(C=3C=C(C(=C(C3)Br)O)Br)C=4C=C(C(=C(C4)Br)O)Br | C19H10Br4O5S
reactant | KOH | [OH-].[K+]
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 8.8 moles | CO | CH4O
product | Dimethyl Methylphosphonate Tris(2-chloroethyl) Phosphate | CP(OC)(OC)=O.P(=O)(OCCCl)(OCCCl)OCCCl | InChI=1S/C6H12Cl3O4P.C3H9O3P/c7-1-4-11-14(10,12-5-2-8)13-6-3-9;1-5-7(3,4)6-2/h1-6H2;1-3H3
